US05175296
Using the method of Example 2, Part A, 2.5 g of 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline was reacted with 4-chlorobenzaldehyde to provide 3.1 g of α-(4-chlorophenyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol as a yellow solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 2.5 g | CC(CN1C=NC=2C=NC=3C=CC=CC3C21)C | C14H15N3
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | α-(4-chlorophenyl)-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-methanol | 3.1 g | ClC1=CC=C(C=C1)C(O)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C21H20ClN3O
